US05310904
A mixture of 2,3-dihydro-3-hydroxy-8-methyl-2-(4-methylphenyl)-1,5-benzothiazepin-4(5H)-one (30.0 g), acetic anhydride (50 ml), dimethylsulfoxide (100 ml), pyridine (3 ml) and toluene (100 ml) is stirred at room temperature for 4 days, and the mixture is treated in the same manner as in Reference Example 1-(1) to give 3-acetoxy-8-methyl-2-(4-methylphenyl)-1,5-benzothiazepin-4(5H)-one (24.0 g).

reactant | 2,3-dihydro-3-hydroxy-8-methyl-2-(4-methylphenyl)-1,5-benzothiazepin-4(5H)-one | 30.0 g | OC1C(SC2=C(NC1=O)C=CC(=C2)C)C2=CC=C(C=C2)C | C17H17NO2S
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-acetoxy-8-methyl-2-(4-methylphenyl)-1,5-benzothiazepin-4(5H)-one | 24.0 g, Yield: 70.6% | C(C)(=O)OC1=C(SC2=C(NC1=O)C=CC(=C2)C)C2=CC=C(C=C2)C | C19H17NO3S
